US07166648B2
3,3-Diacetyl-1,5-dicyanopentane
After addition of 0.25 g of KOH, dissolved in 2.5 ml of methanol, to 15.0 g of 2,4-pentandione, 35.0 g of acrylonitrile was added dropwise with the reaction temperature not exceeding 40° C. The product which was precipitated during the process was filtered off, washed with a small amount of acetone, and dried. Melting point: 185–186° C. Purity>98%. The product was colorless.

reactant | KOH | 0.25 g | [OH-].[K+]
reactant | 2,4-pentandione | 15.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | acrylonitrile | 35.0 g | C(C=C)#N | C3H3N
solvent | methanol | 2.5 ml | CO | CH4O
product | 3,3-Diacetyl-1,5-dicyanopentane | C(C)(=O)C(CCC#N)(CCC#N)C(C)=O | C11H14N2O2
